US07728010B2
Step 5. Synthesis of 4-[2-(2,6-Difluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid dimethylamide
A solution of the 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid dimethylamide (1 eq) in methanol was treated with 2,6-difluorophenylisothiocyanate (1 eq) and stirred overnight. To the reaction mixture, methyl iodide (1 eq) was added and stirred overnight at 60° C. The reaction was cooled down to room temperature, evaporated, and the residue purified by reverse phase HPLC. HPLC, 1.66 min; MS: MH+=424.1

reactant | 4-(3-Amino-4-methylamino-phenoxy)-pyridine-2-carboxylic acid dimethylamide | 1 eq | CN(C(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)N)C | C15H18N4O2
reactant | 2,6-difluorophenylisothiocyanate | 1 eq | FC1=C(C(=CC=C1)F)N=C=S | C7H3F2NS
reactant | methyl iodide | 1 eq | CI | CH3I
solvent | methanol | CO | CH4O
product | 4-[2-(2,6-Difluoro-phenylamino)-1-methyl-1H-benzoimidazol-5-yloxy]-pyridine-2-carboxylic acid dimethylamide | CN(C(=O)C1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=C(C=CC=C2F)F)C)C=C1)C | C22H19F2N5O2
